US06989392B2
8-trifluoromethylsulfonylquinoline-2-amine
To an oven-dried 500 mL round bottom flask was added of 2-amino-8-hydroxyquinoline (5.04 g, 31.5 mmol). The system was evacuated and purged with N2 three times, then charged with THF (70.0 mL) and pyridine (23.0 mL, 8 equiv). The solution was cooled to −30° C. in an isopropyl alcohol/dry ice bath, and triflic anhydride (14.9 mL, 2.8 equiv) was added dropwise over 50 min. The reaction mixture was allowed to warm to room temperature under N2. After 2 h, the crude mixture was filtered through a pad of Celite, which was subsequently washed with THF (100 mL). The resulting solution was concentrated and the residue was dissolved in EtOAc (100 mL). This solution was washed with 1 M ammonium chloride (4×100 mL), saturated aqueous NaHCO3, (4×100 mL), and brine (2×100 mL). The organic phase was concentrated, and the residue was purified by flash chromatography (20% EtOAc/hexane) to afford the title compound. MS (DCI/NH3) m/z 293 [M]+, 160.

reactant | 2-amino-8-hydroxyquinoline | 31.5 mmol, 5.04 g | NC1=NC2=C(C=CC=C2C=C1)O | C9H8N2O
reactant | pyridine | 23.0 mL, 8 equiv | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 14.9 mL, 2.8 equiv | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | THF | 70.0 mL | C1CCOC1 | C4H8O
product | 8-trifluoromethylsulfonylquinoline-2-amine | FC(S(=O)(=O)C=1C=CC=C2C=CC(=NC12)N)(F)F | C10H7F3N2O2S
